US07968573B2
A mixture of 1.0 g of 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6,8-dibromo-4H-3,1-benzoxazine-4-one, 0.28 ml of methylhydrazine and 16 ml of tetrahydrofuran was stirred at room temperature for 19 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 0.97 g of 3-bromo-N-[4,6-dibromo-2-(N-methylhydrazinocarbonyl)phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide of the formula:

reactant | 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6,8-dibromo-4H-3,1-benzoxazine-4-one | 1.0 g | BrC1=NN(C(=C1)C1=NC2=C(C(O1)=O)C=C(C=C2Br)Br)C2=NC=CC=C2Cl | C16H6Br3ClN4O2
reactant | methylhydrazine | 0.28 ml | CNN | CH6N2
reactant | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 3-bromo-N-[4,6-dibromo-2-(N-methylhydrazinocarbonyl)phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide | 0.97 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1Br)Br)C(=O)N(N)C)C1=NC=CC=C1Cl | C17H12Br3ClN6O2
